US07964643B2
N-(4-(Biphenyl-4-sulfonylamino)-butyl]-acetamide (ABD-251)
Biphenyl-4-sulfonic acid (4-amino-butyl)amide (1 g) was suspended in a mixture of acetic anhydride (45 mL) and pyridine (15 mL) and stirred at 80° C. for 4 hours. The solution was left to stir overnight and then poured into ice water. The aqueous mixture was extracted with dichloromethane, dried (Na2SO4) and evaporated to give a brown oil. The oil was redissolved in dichloromethane and the title compound precipitated as a white solid by addition of a small amount of petrol. δC (CDCl3, 62.9 MHz): 23.2, 26.6, 26.8, 39.1, 42.9, 127.3, 127.6, 127.8, 128.5, 129.1, 138.4, 139.3, 145.6 and 170.9.

reactant | Biphenyl-4-sulfonic acid (4-amino-butyl)amide | 1 g | NCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C16H20N2O2S
reactant | acetic anhydride | 45 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-(Biphenyl-4-sulfonylamino)-butyl]-acetamide | C1(=CC=C(C=C1)S(=O)(=O)NCCCCNC(C)=O)C1=CC=CC=C1 | C18H22N2O3S
